US08236319B2
Mal-Gaba-Gly-Gly-Gly-β-Ala-OH
820 mg (1.7 mmol) of Mal-Gaba-Gly-Gly-Gly-β-Ala-OtBu was disolved in 9.0 mL of 95:5 trifluoroacetic acid: deionized water and magnetically stirred for 3 hours. Solvent was removed by rotary evaporation under vacuum to give 730 mg (100%) of the title compound. 1H NMR (d6-DMSO) 12.1 (bs, 1H), 8.05-8.20 (m, 3H), 7.82 (t, J=6.0 Hz, 1H), 7.00 (s, 2H), 3.71 (t, J=6.0 Hz, 4H), 3.65 (d, J=6.0 Hz, 2H), 3.41 (t, J=7.2 Hz, 2H), 3.26 (q, J=5.6 Hz, 2H), 2.38 (t, J=7.2 Hz, 2H,), 2.14 (q, J=8.0 Hz, 2H), 1.67-1.77 (m, 2H). 13C NMR (d6-DMSO) 172.70, 171.83, 171.01, 169.50, 168.99, 168.51, 134.38, 42.07, 41.84, 36.75, 34.70, 33.69, 32.28, 23.97 HRMS (M+Na+) Calc. 448.1444 found 448.1465

reactant | Gaba Gly-Gly-Gly-β-Ala-OtBu | C(CC(=O)O)CN.NCC(=O)NCC(=O)NCC(=O)NCCC(=O)OC(C)(C)C
reactant | water | O | H2O
solvent | trifluoroacetic acid | 9.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Gaba Gly-Gly-Gly-β-Ala-OH | 730 mg, 100% | C(CC(=O)O)CN.NCC(=O)NCC(=O)NCC(=O)NCCC(=O)O | InChI=1S/C9H16N4O5.C4H9NO2/c10-3-6(14)12-5-8(16)13-4-7(15)11-2-1-9(17)18;5-3-1-2-4(6)7/h1-5,10H2,(H,11,15)(H,12,14)(H,13,16)(H,17,18);1-3,5H2,(H,6,7)
